US07227035B2
Synthesis of N-(2-Benzoyl-4-bromo-phenyl)-4-methoxy-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 138 mg of (2-Amino-5-bromo-phenyl)-phenyl-methanone and 103 mg of 4-Methoxy-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 3.78 (s, 3H), 6.83 (d, 2H, J=9.2 Hz), 7.39 (b, 1H), 7.49 (d, 2H, J=6.4 Hz), 7.68 (m, 4H), 8.85 (d, 2H, J=6.0 Hz), 9.96 (b, 1H). MS: m/z 447.0 (M++1).

reactant | (2-Amino-5-bromo-phenyl)-phenyl-methanone | 138 mg | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=CC=C1 | C13H10BrNO
reactant | 4-Methoxy-benzenesulfonyl chloride | 103 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | N-(2-Benzoyl-4-bromo-phenyl)-4-methoxy-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Br)NS(=O)(=O)C1=CC=C(C=C1)OC | C20H16BrNO4S
